US06670373B1
N-(3,4,5-Trimethoxyphenyl)-3-(5-hexyl-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide
4-Carboxy-5-hexyl-3-(2,6-difluorophenyl)isoxazole (150 mg, 0.46 mmol), 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide (160 mg, 0.51 mmol), EDCI (150 mg, 0.78 mmol), DMAP (12 mg, 0.10 mmol) were reacted in CH2Cl2 (5 ml) for 19 h then applied to a silica gel column. Elution with hexanes/EtOAc (gradient) gave the title compound (185 mg, 65%).

reactant | 4-Carboxy-5-hexyl-3-(2,6-difluorophenyl)isoxazole | 0.46 mmol, 150 mg | C(=O)(O)C=1C(=NOC1CCCCCC)C1=C(C=CC=C1F)F | C16H17F2NO3
reactant | 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide | 0.51 mmol, 160 mg | NC=1C=C(C=CC1)CC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C17H20N2O4
reactant | EDCI | 0.78 mmol, 150 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.10 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3,4,5-Trimethoxyphenyl)-3-(5-hexyl-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide | 185 mg, 65% | COC=1C=C(C=C(C1OC)OC)NC(CC1=CC(=CC=C1)NC(=O)C=1C(=NOC1CCCCCC)C1=C(C=CC=C1F)Cl)=O | C33H35ClFN3O6
